US06420566B2
A mixture of 1.3 g of N-(tert-butyl)-N′-[1-(4-methoxyphenyl)-2-hydroxyethyl]thiourea in 12.3 cm3 of aqueous 6N hydrochloric acid is heated with stirring at a temperature in the region of 100° C. for 1 hour. The dense oil which precipitates is separated out after settling from the supernatant hydrochloric aqueous phase. After cooling to about 20° C., this aqueous phase is extracted with 5 cm3 of ethyl acetate and the resulting aqueous phase is then evaporated under reduced pressure (5 kPa) at a temperature in the region of 50° C. An oil is obtained, which is freed of its residual water by azeotropic entrainment first with 10 cm3 of ethanol and then with 10 cm3 of diethyl ether, each repetition being followed by concentrating under the above conditions. 6 cm3 of 1N sodium hydroxide are added to the oil obtained and the mixture is then extracted with 30 cm3 of diethyl ether containing 15 cm3 of ethyl acetate. The organic phase is separated out after settling has taken place and evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.1 g of oxalic acid predissolved in 1 cm3 of acetone is added to the residue obtained. The white precipitate formed is separated out by filtration, washed once with acetone, twice with chloroform and then once with ethyl acetate, and dried under reduced pressure (10 Pa) at a temperature in the region of 40° C. 0.063 g of 4-(4-methoxyphenyl)-4,5-dihydro-1,3-thiazol-2-ylamine is obtained in the form of a white solid melting at 180° C. [1H NMR spectrum (300 MHz, d6-(CD3)SO, δ in ppm): 3.40 (dd, J=14 and 8.5 Hz 1H); 3.80 (s: 3H); 3.93 (dd, J=14 and 8.5 Hz: 1H); 4.22 (unres. mult.: 2H); 3.58 (t, J=8.5 Hz : 1H); 7.00 (d, J=8.5 Hz: 2H); 7.34 (d, J=8.5 Hz : 2H)].

reactant | N-(tert-butyl)-N′-[1-(4-methoxyphenyl)-2-hydroxyethyl]thiourea | 1.3 g | C(C)(C)(C)NC(=S)NC(CO)C1=CC=C(C=C1)OC | C14H22N2O2S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 10 cm3 | C(C)O | C2H6O
solvent | diethyl ether | 10 cm3 | C(C)OCC | C4H10O
product | 4-(4-methoxyphenyl)-4,5-dihydro-1,3-thiazol-2-ylamine | 0.063 g | COC1=CC=C(C=C1)C1N=C(SC1)N | C10H12N2OS
